US08217065B2
E. 2-(2,6-Dichlorophenyl)-3H-benzimidazole-5-carbonyl chloride hydrochloride
A mixture of 2-(2,6-dichlorophenyl)-3H-benzoimidazole-5-carboxylic acid (5 g) in thionyl chloride (10 mL) containing a catalytic quantity of DMF was stirred at RT for 18 h. Methylene chloride was added and the resulting solid was filtered, washed with methylene chloride and dried under reduced pressure to give the title compound as an off-white solid.

reactant | 2-(2,6-dichlorophenyl)-3H-benzoimidazole-5-carboxylic acid | 5 g | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C14H8Cl2N2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-(2,6-Dichlorophenyl)-3H-benzimidazole-5-carbonyl chloride hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)Cl | InChI=1S/C14H7Cl3N2O.ClH/c15-8-2-1-3-9(16)12(8)14-18-10-5-4-7(13(17)20)6-11(10)19-14;/h1-6H,(H,18,19);1H
